### PR TITLE
feat: simplest surreal between two cuts

### PR DESCRIPTION
**Pull request by vihdzp**
We define the `simplestBtwn` function returning the simplest surreal between two cuts `x < y`, and relate it to cuts of games.

Co-authored by @plp127.

- [x] Depends on: #128

### CODE REVIEW

File: CombinatorialGames/Surreal/Cut.lean [hunk 1]
```diff
@@ -265,17 +265,39 @@ theorem mem_right_rightSurreal {x y} : y ∈ (rightSurreal x).right ↔ x < y :=
...
 theorem leftGame_lt_rightGame_iff {x : Game} :
     leftGame x < rightGame x ↔ x ∈ range Surreal.toGame := by
   constructor
   · rw [lt_iff_nonempty_inter]
-    intro ⟨y, hyr, hyl⟩
-    exact ⟨y, le_antisymm hyl hyr⟩
-  · rintro ⟨x, rfl⟩
-    simpa using leftSurreal_lt_rightSurreal x
+    exact fun ⟨y, hyr, hyl⟩ ↦ ⟨y, le_antisymm hyl hyr⟩
+  · aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean:298]: Nice! Didn't catch this.

File: CombinatorialGames/Surreal/Cut.lean [hunk 2]
```diff
@@ -339,4 +361,71 @@ theorem rightGame_eq_infRight_of_le {x : IGame} : infRight x ≤ supLeft x →
   simpa [← neg_supLeft, ← neg_infRight, ← neg_leftGame, ← neg_rightGame] using
     @leftGame_eq_supLeft_of_le (-x)
 
+/-- A surreal `x` fits between two cuts `y` and `z` when `x ∈ y.right ∩ z.left`. -/
+def Fits (x : Surreal) (y z : Cut) : Prop :=
+  x ∈ y.right ∩ z.left
+
+theorem Fits.lt {x : Surreal} {y z : Cut} (h : Fits x y z) : y < z := by
+  rw [lt_iff_nonempty_inter]
+  exact ⟨x, h⟩
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]:
```suggestion
theorem Fits.lt {x : Surreal} {y z : Cut} (h : Fits x y z) : y < z :=
  lt_iff_nonempty_inter.mpr ⟨x, h⟩
```

File: CombinatorialGames/Surreal/Cut.lean [hunk 3]
```diff
@@ -339,4 +361,71 @@ theorem rightGame_eq_infRight_of_le {x : IGame} : infRight x ≤ supLeft x →
...
+
+@[simp]
+theorem fits_leftSurreal_rightSurreal {x y : Surreal} :
+    Fits x (leftSurreal y) (rightSurreal y) ↔ x = y := by
+  simp [Fits, le_antisymm_iff, and_comm]
+
+theorem Fits.le_leftSurreal {x : Surreal} {y z : Cut} (h : Fits x y z) : y ≤ leftSurreal x := by
+  simpa using h.1
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]:
```suggestion
theorem Fits.le_leftSurreal {x : Surreal} {y z : Cut} (h : Fits x y z) : y ≤ leftSurreal x :=
  le_leftSurreal_iff.mpr h.1
```

File: CombinatorialGames/Surreal/Cut.lean [hunk 4]
```diff
@@ -339,4 +361,71 @@ theorem rightGame_eq_infRight_of_le {x : IGame} : infRight x ≤ supLeft x →
...
+
+theorem Fits.rightSurreal_le {x : Surreal} {y z : Cut} (h : Fits x y z) : rightSurreal x ≤ z := by
+  simpa using h.2
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]:
```suggestion
theorem Fits.rightSurreal_le {x : Surreal} {y z : Cut} (h : Fits x y z) : rightSurreal x ≤ z :=
  rightSurreal_le_iff.mpr h.2
```

File: CombinatorialGames/Surreal/Cut.lean [hunk 5]
```diff
@@ -339,4 +361,71 @@ theorem rightGame_eq_infRight_of_le {x : IGame} : infRight x ≤ supLeft x →
...
+theorem fits_supLeft_infRight {x y : IGame} [x.Numeric] :
+    Fits (.mk x) (supLeft y) (infRight y) ↔ x.Fits y := by
+  simp [Fits, supLeft, infRight, IGame.Fits]
+
+theorem simplestBtwn_leftGame_rightGame {x : Game} (h : leftGame x < rightGame x) :
+    (simplestBtwn h).toGame = x := by
+  rw [leftGame_lt_rightGame_iff] at h
+  obtain ⟨x, rfl⟩ := h
+  have hs := fits_simplestBtwn h
+  simp_all [le_antisymm_iff]
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]:
```suggestion
theorem simplestBtwn_leftGame_rightGame {x : Game} (h : leftGame x < rightGame x) :
    (simplestBtwn h).toGame = x := by
  rw [leftGame_lt_rightGame_iff] at h
  obtain ⟨x, rfl⟩ := h
  simpa [le_antisymm_iff] using fits_simplestBtwn h
```

File: CombinatorialGames/Surreal/Cut.lean [hunk 6]
```diff
@@ -339,4 +361,71 @@ theorem rightGame_eq_infRight_of_le {x : IGame} : infRight x ≤ supLeft x →
...
+
+/-- If `x` is a game with `supLeft x < infRight x`, then the simplest number between those two cuts
+is equal to `x`. -/
+theorem simplestBtwn_supLeft_infRight {x : IGame} (h : supLeft x < infRight x) :
+    (simplestBtwn h).toGame = .mk x := by
+  obtain ⟨y, _, hy, hy'⟩ := birthday_eq_iGameBirthday (simplestBtwn h)
+  have H := fits_simplestBtwn h
+  rw [← hy, fits_supLeft_infRight] at H
+  rw [← hy, toGame_mk, Game.mk_eq_mk]
+  apply H.equiv_of_forall_birthday_le fun z hz hzx ↦ ?_
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]: I did not know `apply` could do this.

```suggestion
  refine H.equiv_of_forall_birthday_le fun z hz hzx ↦ ?_
```

File: CombinatorialGames/Surreal/Cut.lean [hunk 7]
```diff
@@ -339,4 +361,71 @@ theorem rightGame_eq_infRight_of_le {x : IGame} : infRight x ≤ supLeft x →
   simpa [← neg_supLeft, ← neg_infRight, ← neg_leftGame, ← neg_rightGame] using
     @leftGame_eq_supLeft_of_le (-x)
 
+/-- A surreal `x` fits between two cuts `y` and `z` when `x ∈ y.right ∩ z.left`. -/
+def Fits (x : Surreal) (y z : Cut) : Prop :=
+  x ∈ y.right ∩ z.left
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean:366]: [Completely random comment, but this definition is very pleasant!]

**Review by tristan-f-r — CHANGES_REQUESTED** [review]

**Review by tristan-f-r — APPROVED** [review]
